* C:\Electronics Trunk\Boost Converter\Boost_Converter-\LTspice sims\boost_converter.asc
XU1 0 N007 Vcc -Vcc -k*Vc level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 N009 N007 10k
R2 -k*Vc N007 60k
V2 Vcc 0 15v
R3 Vc 0 450
C1 Vc 0 10µF IC=10V
D1 Vsw Vc 1N4148
M1 Vsw N002 0 0 IRF510
L1 Vs vpos 2.5mH
V3 Vs 0 5
V1 -Vcc 0 -15v
C2 N007 0 47nF
R4 Vsw vpos 0.1
XU2 N008 N003 Vcc -Vcc -k*IL level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R5 N003 Vsw 20k
R6 Vpos N008 20k
R7 N003 -k*IL 100k
R8 0 N008 100k
XU3 Vcm N004 Vcc -Vcc sum level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R9 N006 N004 100k
R10 sum N004 100k
R11 N006 -k*IL 1k
R12 N006 -k*Vc 1k
XU4 saw N005 Vs 0 D_in level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R15 N009 Vc 10k
R16 N009 -Vout 10k
V6 -Vout 0 -15V
R17 Vcc Vcm 10k
R18 Vcm 0 1.5K
R19 N006 Vcm 100k
C6 Vcm 0 100nF
R20 D_in N005 1Meg
R21 N005 sum 1k
R22 N002 D_in 100
R13 N001 Duty_in 10k
R14 saw N001 10k
C3 N001 0 1nF
C8 saw 0 1nF
V4 Duty_in 0 PULSE(0 5 0 1n 1n {ton} {period})
.model D D
.lib C:\Users\Administrator\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Administrator\Documents\LTspiceXVII\lib\cmp\standard.mos
.param frequency=10k
.param period = 1/frequency
.param ton = duty*period
.param duty=0.5
.param Il_eqm = 5/(450*(1-duty)^2)
.IC I(L1)=0.1
* Signal Generator
* Boost Converter
* State-Space Regulator
* Vcdelta*(-K2)
* ILdelta*(-K1)
* Vcdelta*(-K2)+ILdelta*(-K1)
* -[Vcdelta*(-K2)+ILdelta*(-K1)]
.tran 40m
.lib UniversalOpamps2.sub
.backanno
.end
